US04536477
The substrate used for the assay is a maltodextrin (Maltrin-100 available from the Grain Processing Company, Muscatine, Iowa). 0.1 ml of the enzyme solution was mixed with 0.6 ml of a 5% maltodextrin solution, 0.1 ml of 500 mM sodium acetate solution (pH 5) and water is added to make a total volume of 1 ml. After the mixture is incubated at 60° C. for 30 minutes, the reaction is terminated by immersing the mixture in a boiling water bath for 10 to 20 minutes. Glucose is then determined by the glucose-oxidase method using a glucose analyzer (Yellow Springs Instrument Company, Yellow Springs, Ohio). One glucoamylase unit is defined as the amount of enzyme required to produce 1 gram of glucose in 1 hour under the assay conditions.

reactant | sodium acetate | 500 mM, 0.1 ml, pH 5 | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
product | glucose | 1 gram | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
